US08809333B2
To a solution of (2R)-4-(4-cyclopentyl-1H-pyrazol-1-yl)-2-methyl-2-(methylsulfonyl)-N-(tetrahydro-2H-pyran-2-yloxy)butanamide (100 mg, 0.242 mmol) in dioxane (2 mL), DCM (2 mL) and water (500 uL) was added a 4.0M sol of HCl in dioxane (0.36 mL, 1.45 mmol). The reaction mixture was stirred at RT for 30 minutes. The solvent was removed and the crude mixture was purified by HPLC (Column: Phenomenex Luna (2) C18 150×3.0 mm 5μ; flow rate 0.75 mL/min; Gradient: 5-100% MeOH/Water containing 0.1% TFA) to give (2R)-4-(4-cyclopentyl-1H-pyrazol-1-yl)-N-hydroxy-2-methyl-2-(methylsulfonyl)butanamide (4 mg, 5% yield). LC-MS M+H+330.1.

reactant | (2R)-4-(4-cyclopentyl-1H-pyrazol-1-yl)-2-methyl-2-(methylsulfonyl)-N-(tetrahydro-2H-pyran-2-yloxy)butanamide | 0.242 mmol, 100 mg | C1(CCCC1)C=1C=NN(C1)CC[C@](C(=O)NOC1OCCCC1)(S(=O)(=O)C)C | C19H31N3O5S
reactant | HCl | Cl | ClH
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
solvent | water | 500 uL | O | H2O
solvent | dioxane | 1.45 mmol, 0.36 mL | O1CCOCC1 | C4H8O2
product | (2R)-4-(4-cyclopentyl-1H-pyrazol-1-yl)-N-hydroxy-2-methyl-2-(methylsulfonyl)butanamide | 4 mg, 5% yield | C1(CCCC1)C=1C=NN(C1)CC[C@](C(=O)NO)(S(=O)(=O)C)C | C14H23N3O4S
